US09193719B2
6-Iodo-2-methylpyridin-3-ol (2.00 g, 8.51 mmol) and 4,6-dichloropyrimidine (5.00 g, 33.6 mmol) were dissolved in DMA (40 mL) and sonicated and sparged with Ar for 10 min. K2CO3 (2.00 g, 14.5 mmol) was added and the reaction mixture was stirred at 110° C. for 16 h. The mixture was partitioned between water (260 mL) and EtOAc (100 mL). The solids were removed by filtration through a pad of diatomaceous earth. The filter cake was washed with EtOAc (3×25 mL). The organic phase was collected and the aqueous phase was extracted with EtOAc (3×50 mL). The combined organics were dried (Na2SO4) and concentrated in vacuo to afford 4-chloro-6-((6-iodo-2-methylpyridin-3-yl)oxy)pyrimidine (2.8 g, 95%) as a yellow solid. 1H NMR (400 MHz, DMSO-d6): δ 8.63 (s, 1H), 7.77 (d, J=8.3 Hz, 1H), 7.57 (s, 1H), 7.41 (d, J=8.3 Hz, 1H), 2.25 (s, 3H). MS (ESI) m/z: 348.0 (M+H+).

reactant | 6-Iodo-2-methylpyridin-3-ol | 8.51 mmol, 2.00 g | IC1=CC=C(C(=N1)C)O | C6H6INO
reactant | 4,6-dichloropyrimidine | 33.6 mmol, 5.00 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | K2CO3 | 14.5 mmol, 2.00 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMA | 40 mL | CC(=O)N(C)C | C4H9NO
product | 4-chloro-6-((6-iodo-2-methylpyridin-3-yl)oxy)pyrimidine | 2.8 g, 95% | ClC1=NC=NC(=C1)OC=1C(=NC(=CC1)I)C | C10H7ClIN3O
